US04670604
30.5 g (0.13 mole) of 1,3-dimethoxy-2-(3,3,3-trifluoropropyl)-benzene in 275 ml of methylene chloride are introduced into a 1.5 l sulfonating flask with a thermometer, bubble counter, dropping funnel with cooling jacket and argon connection and cooled to -75°. 340 ml of precooled 1 molar solution of boron tribromide in methylene chloride are now added dropwise such that the reaction temperature does not rise above -70° (about 90 minutes). After subsequently stirring at room temperature for 6 hours, the red reaction solution is poured onto 800 ml of ice-water. The organic base is separated off, the aqueous phase is extracted again with ether and the combined organic phases are washed with brine, dried over magnesium sulfate and evaporated. 2-(3,3,3-Trifluoropropyl)-resorcinol is obtained in the form of red crystals of melting point 82°-84° (yield 100%).

reactant | 1,3-dimethoxy-2-(3,3,3-trifluoropropyl)-benzene | 0.13 mole, 30.5 g | COC1=C(C(=CC=C1)OC)CCC(F)(F)F | C11H13F3O2
solvent | methylene chloride | 275 ml | C(Cl)Cl | CH2Cl2
product | 2-(3,3,3-Trifluoropropyl)-resorcinol | yield 100% | FC(CCC1=C(O)C=CC=C1O)(F)F | C9H9F3O2
